US04216142
4.5 g of CBZ-sarcosine is dissolved in 100 ml tetrahydrofuran and 2.4 ml of n-methylmorpholine is added. The reaction mixture is cooled to -10° C. and stirred while 2.6 ml of isobutylchloroformate is added. After 5 minutes of additional stirring at -10° C. 4.15 g L-proline-t-butylester hydrochloride in 100 ml of tetrahydrofuran and 3.0 ml of n-methylmorpholine are added to the reaction mixture. The reaction mixture is stirred overnight and slowly warmed to room temperature. The solvent is evaporated under reduced pressure at 30° C. and the residue is dissolved in 600 ml ethylacetate. The ethylacetate layer is washed with (3×150 ml), lN sodium hydroxide, water (1×200 ml) 10% citric acid (3×150 ml), and water (3×150 ml). The organic layer is dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure to provide carbobenzoxysarcosyl-proline-t-butyl ester (CBZ-Sar-L-Pro-O-t-But). 6.5 g of this material is dissolved in 15 ml of methylene chloride and 25 ml of trifluoroacetic acid is then added. The reaction mixture is kept at room temperature for 45 minutes and then the solvent is evaporated under reduced pressure at 30° C. The residue is triturated with hexane (3×50 ml) and the hexane removed by decantation. The residue is evaporated from (2×50 ml) of benzene to provide an oily residue which is carbobenzoxysarcosyl-L-proline (CBZ-Sar-L-Pro). 5.4 g of this material and 3.45 g of N-hydroxysuccinimide are dissolved in 100 ml of tetrahydrofuran and cooled to 0° C. To this cooled reaction mixture is added 4.12 g of dicyclohexylcarbodiimide. The reaction mixture is stirred overnight at 4° C. and the solvent is evaporated under reduced pressure. The residue is dissolved in 400 ml of ethylacetate and the dicyclohexyl urea is filtered off. The filtrate is washed with lN-hydrochloric acid (3×100 ml), water (1×100 ml), saturated sodium bicarbonate solution (2×100 ml) and water (2×100 ml). The organic layer is dried over anhydrous magnesium sulfate, filtered and the solvent is evaporated under reduced pressure to provide carbobenzoxy-sarcosyl-L-proline-succinimidyl ester.

reactant | CBZ-sarcosine | 4.5 g | C(=O)(OCC1=CC=CC=C1)N(C)CC(=O)O | C11H13NO4
reactant | isobutylchloroformate | 2.6 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | L-proline-t-butylester hydrochloride | 4.15 g | Cl.C(C)(C)(C)OC([C@H]1NCCC1)=O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | n-methylmorpholine | 3.0 ml | CN1CCOCC1 | C5H11NO
solvent | n-methylmorpholine | 2.4 ml | CN1CCOCC1 | C5H11NO
product | carbobenzoxysarcosyl-proline-t-butyl ester | C(C)(C)(C)OC([C@H]1N(CCC1)C(CN(C)C(=O)OCC1=CC=CC=C1)=O)=O | C20H28N2O5
